US07312213B2
Step A: Phenyl 2,3-dihydro-4H-pyrido[3,2-b][1,4]oxazin-3-one-4-carboxylate
Under an anhydrous atmosphere, a solution of 10 mmol of 2H-pyrido[3,2-b][1,4]oxazin-3-one in 50 ml of tetrahydrofuran is cooled to −78° C. At that temperature, 11 mmol of a 1.6M solution of n-butyllithium in hexane are added dropwise. After 30 minutes' contact at −78° C., 11 mmol of phenyl chloroformate are added dropwise and stirring is maintained for a further 2 hours. After returning to ambient temperature, the solution is hydrolysed and then extracted with ethyl acetate. The organic phase is dried over magnesium sulphate, filtered and evaporated. After purification by chromatography on silica gel (petroleum ether/ethyl acetate: 8/2), the expected product is isolated.

reactant | 2H-pyrido[3,2-b][1,4]oxazin-3-one | 10 mmol | O1C2=C(NC(C1)=O)N=CC=C2 | C7H6N2O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | phenyl chloroformate | 11 mmol | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Phenyl 2,3-dihydro-4H-pyrido[3,2-b][1,4]oxazin-3-one-4-carboxylate | O1C2=C(N(C(C1)=O)C(=O)OC1=CC=CC=C1)N=CC=C2 | C14H10N2O4
